US07645771B2
8-Benzyl-8-azabicyclo[3.2.1]octan-3-one oxime
4.85 g (22.56 mmol) of 8-benzyl-8-azabicyclo[3.2.1]octan-3-one was dissolved in 60 ml of ethanol. 3.13 g (45 mmol) hydroxylamine hydrochloride was then added followed by 1.8 g (45 mmol) of NaOH in 15 ml of water. The mixture was refluxed for 20 hrs and was cooled to ambient temperature. The solvent was removed in vaccuo. The residue was diluted with ethyl acetate and washed with water and the organic layer was dried over sodium sulfate. The solvent was removed to give 4.28 g of product as a light yellow solid.

reactant | 8-benzyl-8-azabicyclo[3.2.1]octan-3-one | 22.56 mmol, 4.85 g | C(C1=CC=CC=C1)N1C2CC(CC1CC2)=O | C14H17NO
reactant | hydroxylamine hydrochloride | 45 mmol, 3.13 g | Cl.NO
reactant | NaOH | 45 mmol, 1.8 g | [OH-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 8-Benzyl-8-azabicyclo[3.2.1]octan-3-one oxime | 4.28 g | C(C1=CC=CC=C1)N1C2CC(CC1CC2)=NO | C14H18N2O
